US03953595
3-Benzyloxy-5-chlorobenzoic Acid
To a solution of 173 mg. (1 m mole) of 3-hydroxy-5-chlorobenzoic acid in 2 ml. of dimethylformamide is added 85 mg. (2 m moles) of 56.6% sodium hydride in an oil suspension. After ten minutes, the resulting suspension is treated with 130 mg. (1 m mole) of benzyl chloride and the mixture heated to 100° C. for one hour. The reaction mixture is then cooled, diluted with 5 ml. of water, and extracted with ether. The aqueous phase is separated, acidified with 6N hydrochloric acid and the product extracted with ether. The ether solvent is removed in vacuo and the residual product triturated with water and filtered. The dried product is sublimed at 125° C. and 0.02 mm of pressure to provide 50 mg. of the desired produce, m.p. 127-129° C.

reactant | 3-hydroxy-5-chlorobenzoic acid | OC=1C=C(C(=O)O)C=C(C1)Cl | C7H5ClO3
reactant | sodium hydride | [H-].[Na+]
reactant | benzyl chloride | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 3-Benzyloxy-5-chlorobenzoic Acid | C(C1=CC=CC=C1)OC=1C=C(C(=O)O)C=C(C1)Cl | C14H11ClO3
